US08378118B2
Step-I: Preparation of 5-Chloro-indan-4-ol
To a clear solution of Indan-4-ol (40.0 gm, 0.297 mole) and Diisopropylamine (4.29 ml, 0.029 mole) in Dichloromethane (140 ml), a solution of Sulfuryl chloride (21.76 ml, 0.267 mole) in Dichloromethane (20 ml) was added at 0-5° C. The reaction mixture was stirred for 15 hours at 20-25° C. and poured into water (200 ml). Further it was extracted with Ethylacetate (2×200 ml). The organic layer was dried over Sodium sulphate, distilled under vacuum to give crude solid which was purified by column chromatography using Ethyl acetate:Hexane (2:98) as mobile phase. The collected fractions were distilled to give 5.7 gm of desired product as a solid.

reactant | Indan-4-ol | 0.297 mole, 40.0 gm | C1CCC=2C(=CC=CC12)O | C9H10O
reactant | Diisopropylamine | 0.029 mole, 4.29 ml | C(C)(C)NC(C)C | C6H15N
reactant | Sulfuryl chloride | 0.267 mole, 21.76 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 200 ml | O | H2O
solvent | Dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-Chloro-indan-4-ol | 5.7 gm, Yield: 11.4% | ClC1=C(C=2CCCC2C=C1)O | C9H9ClO
